US07687515B2
16d: 1-Ethyl-2-(pyridin-4-ylaminomethyl)-6-(3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile
4-Aminopyridine (26 mg, 0.27 mmol) was added to a solution of diisopropylethylamine (0.24 mL, 1.37 mmol) and 2-chloromethyl-1-ethyl-6-(3-trifluoromethy-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile (0.100 g, 0.27 mmol) in DMF (3 mL). The mixture was heated at 80° C. for 2 hours, than filtered. The precipitate was washed with water, then isopropyl ether, dried to afford the title compound (55 mg, 47%) as a solid (mp=340° C.). 1H NMR (DMSO-d6) δ: 8.84 (s, 1H); 8.6-8.5 (m, 2H); 8.31 (d, J=8 Hz, 2H); 7.9-7.7 (m, 2H); 6.97 (d, J=8 Hz, 2H); 5.98 (s, 2H); 4.51 (q, J=7 Hz, 2H); 1.45 (t, J=7 Hz, 3H). MS m/z: 423 (M+1).

reactant | 4-Aminopyridine | 0.27 mmol, 26 mg | NC1=CC=NC=C1 | C5H6N2
reactant | diisopropylethylamine | 1.37 mmol, 0.24 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chloromethyl-1-ethyl-6-(3-trifluoromethy-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 0.27 mmol, 0.100 g | ClCC=1N(C2=C(C(=NC(=C2)C2=CC(=CC=C2)C(F)(F)F)C#N)N1)CC | C17H12ClF3N4
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-Ethyl-2-(pyridin-4-ylaminomethyl)-6-(3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 55 mg, 47% | C(C)N1C(=NC=2C(=NC(=CC21)C2=CC(=CC=C2)C(F)(F)F)C#N)CNC2=CC=NC=C2 | C22H17F3N6
